US04599333
To a suspension of 1.5 g of 61% sodium hydride in 40 ml of benzene was added dropwise 2.5 g of 2-amino-1-propanol at room temperature. Then, a solution of 5 g of 3,6-dichloropyridazine in 15 ml of benzene was added, and the mixture was refluxed for 1 hour. After cooling, the reaction mixture was washed with water, and dried over magnesium sulfate. After evaporating the solvent, the residue was treated with hydrogen chloride-ether solution to give 2.31 g of 3-(2-aminopropoxy)-6-chloropyridazine hydrochloride.

reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | 2-amino-1-propanol | 2.5 g | NC(CO)C | C3H9NO
reactant | 3,6-dichloropyridazine | 5 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 3-(2-aminopropoxy)-6-chloropyridazine hydrochloride | 2.31 g | Cl.NC(COC=1N=NC(=CC1)Cl)C | InChI=1S/C7H10ClN3O.ClH/c1-5(9)4-12-7-3-2-6(8)10-11-7;/h2-3,5H,4,9H2,1H3;1H
